US06403791B1
7-Bromo-4-methoxy-2-(morpholin-4-yl)-benzooxazole
A mixture of 7-bromo-4-methoxy-2-methylsulfanylbenzooxazole (10.0 g) and morpholine (6.6 ml) were heated at 80° C. for 18 hours. Purification by chromatography on silica eluting with 20-100% ethyl acetate in heptane afforded the title compound as an off-white solid (11.6 g).

reactant | 7-bromo-4-methoxy-2-methylsulfanylbenzooxazole | 10.0 g | BrC1=CC=C(C=2N=C(OC21)SC)OC | C9H8BrNO2S
reactant | morpholine | 6.6 ml | N1CCOCC1 | C4H9NO
product | 7-Bromo-4-methoxy-2-(morpholin-4-yl)-benzooxazole | 11.6 g | BrC1=CC=C(C=2N=C(OC21)N2CCOCC2)OC | C12H13BrN2O3
